US06353010B1
A mixture of 4-methoxybenzoxazole-7-carboxylic acid (0.16 g), dimethylaminopyridine (catalytic) 4-nitrophenol (0.17 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.17 g) in dichloromethane (30 ml) was stirred at room temperature under nitrogen overnight. The mixture was diluted with dichloromethane (20 ml) and washed with water (2×50 ml). The combined organic phases were dried over magnesium sulphate and evaporated in vacuo to give 4-nitrophenyl 4-methoxybenzoxazole-7-carboxylate. 4-Amino-3,5-dichloropyridine (0.15 g) was dissolved in N,N-dimethylformamide (5 ml) at room temperature under nitrogen. Sodium hydride (40 mg; 60% disopersion in oil) was added, and the mixture stirred for 1 h before addition of the 4-nitrophenyl ester (0.26 g) in N,N-dimethylformamide (20 ml). After stirring for 60 h, the N,N-dimethylformamide was evaporated in vacuo, and the residue partitioned between ethyl acetate (40 ml) and water (40 ml). The combined organic phases were washed with water (2×40 ml), dried over magnesium sulphate, evaporated onto silica and purified by flash chromatography eluting with 50% ethyl acetate in hexane) to yield the title compound as a white solid (51 mg).

reactant | 4-methoxybenzoxazole-7-carboxylic acid | 0.16 g | COC1=CC=C(C2=C1N=CO2)C(=O)O | C9H7NO4
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-nitrophenol | 0.17 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.17 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl 4-methoxybenzoxazole-7-carboxylate | COC1=CC=C(C2=C1N=CO2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C15H10N2O6
